US04200645
A mixture of 4-(1-Methyl-2-pyrryl)-but-3-en-2-one (2.98 g) and 10% palladium on charcoal (0.2 g) was hydrogenated in ethyl acetate (50 ml) at room temperature and atmospheric pressure. The catalyst was removed by filtration the solvent evaporated, and the resulting oil left overnight to solidify in a refrigerator. The long, colourless needles which formed were washed with cold 60°-80° petrol to give 4-(1-Methyl-2-pyrryl)-butan-2-one (2.46 g).

reactant | 4-(1-Methyl-2-pyrryl)-but-3-en-2-one | 2.98 g | CN1C(=CC=C1)C=CC(C)=O | C9H11NO
catalyst | palladium on charcoal | 0.2 g | [Pd] | Pd
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-(1-Methyl-2-pyrryl)-butan-2-one | 2.46 g | CN1C(=CC=C1)CCC(C)=O | C9H13NO
